US06197727B1
Then, 3.2 g of 2-[2-fluoro-4-chloro-5-hydroxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one was dissolved in about 50 ml of DMF, to which 2.0 g of potassium carbonate was added at room temperature. Furthermore, 1.3 g of propargyl bromide was added, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was mixed with 100 m of water, and the precipitated crystals were collected by filtration and washed with hexane. The resulting crystals were recrystallized from isopropanol to give 3.4 g of 2-[2-fluoro-4-chloro-5-(2-propynyloxy)phenyl]-4-methyl-5-trifluoromethylpyridazin-3-one (hereinafter referred to as compound A) (m.p., 140.7° C.; decomposition).

reactant | 2-[2-fluoro-4-chloro-5-hydroxyphenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 3.2 g | FC1=C(C=C(C(=C1)Cl)O)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H7ClF4N2O2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | propargyl bromide | 1.3 g | C(C#C)Br | C3H3Br
reactant | water | O | H2O
solvent | DMF | about 50 ml | CN(C)C=O | C3H7NO
product | 2-[2-fluoro-4-chloro-5-(2-propynyloxy)phenyl]-4-methyl-5-trifluoromethylpyridazin-3-one | 3.4 g | FC1=C(C=C(C(=C1)Cl)OCC#C)N1N=CC(=C(C1=O)C)C(F)(F)F | C15H9ClF4N2O2
